US07964608B2
4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester (300 mg, 1.13 mmol) was treated with isobutylamine following general procedure B to afford 4-isobutylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (280 mg). Thus obtained amino-ester was hydrolyzed to the corresponding acid in quantitative yield using general procedure D and then transformed into the corresponding ethylamide (180 mg) following general procedure E. The above ethylamide (0.6 mmol) was subjected to reaction with methyl chloroformate according to general procedure F to furnish 3-ethyl-1-isobutyl-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (22 mg). LCMS: m/z 328 [M+1]+.

reactant | 4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 1.13 mmol, 300 mg | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C13H12ClNO3
reactant | isobutylamine | C(C(C)C)N | C4H11N
product | 4-isobutylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 280 mg, quantitative yield | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NCC(C)C)OC | C17H22N2O3
